US04590192
5,6-Dimethoxy-3-ethoxy-benzoisothiazole-1,1-dioxide
To a solution of 5,6-dimethoxysaccharin (0.8 g) in dichloromethane (100 ml) was added triethyloxonium tetrafluoroborate (3.5 ml, 1M soln in CH2Cl2) and the solution stirred at room temperature for 3 hrs. After extraction with aqueous sodium bicarbonate, the organic phase was dried and concentrated. Purification by column chromatography (silica, chloroform) gave the title compound (0.2 g).

reactant | 5,6-dimethoxysaccharin | 0.8 g | COC=1C=C2C(NS(=O)(=O)C2=CC1OC)=O | C9H9NO5S
reactant | triethyloxonium tetrafluoroborate | F[B-](F)(F)F.C(C)[O+](CC)CC
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5,6-Dimethoxy-3-ethoxy-benzoisothiazole-1,1-dioxide | 0.2 g | COC=1C(=CC2=C(C(=NS2(=O)=O)OCC)C1)OC | C11H13NO5S
